US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-4-(cyclohexylamino)-5-phenyl-1H-pyrrol-2(5H)-one (E23)
The compound was synthesized starting from 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-phenyl-1H-pyrrol-2(5H)-one (0.120 g, 0.366 mmol) and cyclohexylamine (0.59 ml, 5.13 mmol) according to method 7 described above.

reactant | 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-phenyl-1H-pyrrol-2(5H)-one | 0.366 mmol, 0.120 g | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=CC=C2)O)=O | C17H13N3O2
reactant | cyclohexylamine | 5.13 mmol, 0.59 ml | C1(CCCCC1)N | C6H13N
product | 1-(1H-Benzo[d]imidazol-5-yl)-4-(cyclohexylamino)-5-phenyl-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=CC=C2)NC2CCCCC2)=O | C23H24N4O
